US07291640B2
3-Methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzonitrile
Palladium (II) acetate (224 mg, 5 mol %), potassium acetate (3.68 g, 61.2 mmol) and bis(pinacolato)diboron (5.4 g, 21.4 mmol) were added to a solution of 1-bromo-4-cyano-2-methylbenzene (4.0 g, 20.4 mmol) in N,N-dimethylformamide (40 mL) and heated at 80° C. for 18 hours. After such time the mixture was cooled and filtered through a pad of Celite®, washing with ethyl acetate and water. The organic phase was separated, dried over sodium sulfate and concentrated in vacuo to afford a brown solid. The solid was purified by trituration in pentane, filtration and drying to afford the title compound as a beige solid (2.68 g, 54% yield).

reactant | potassium acetate | 61.2 mmol, 3.68 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 21.4 mmol, 5.4 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | 1-bromo-4-cyano-2-methylbenzene | 20.4 mmol, 4.0 g | BrC1=C(C=C(C=C1)C#N)C | C8H6BrN
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
catalyst | Palladium (II) acetate | 224 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-Methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzonitrile | 2.68 g, 54% yield | CC=1C=C(C#N)C=CC1B1OC(C(O1)(C)C)(C)C | C14H18BNO2
